US06204264B1
(3) Ethyl 3-amino-4-{[3-(dimethylamino)propyl]amino}benzoate
10% of palladium-carbon (0.40 g) was added to a solution containing ethyl 4-{[3-(dimethylamino)propyl]amino}-3-nitrobenzoate (2.02 g) in ethanol (20 ml) and stirred for 5 hours under a hydrogen gas atmosphere at room temperature. After the catalyst was removed out by filtration, the filtrate was concentrated, thereby yielding the entitled compound (1.85 g) as dark red oil.

reactant | ethyl 4-{[3-(dimethylamino)propyl]amino}-3-nitrobenzoate | 2.02 g | CN(CCCNC1=C(C=C(C(=O)OCC)C=C1)[N+](=O)[O-])C | C14H21N3O4
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 0.40 g | [C].[Pd]
product | Ethyl 3-amino-4-{[3-(dimethylamino)propyl]amino}benzoate | 1.85 g | NC=1C=C(C(=O)OCC)C=CC1NCCCN(C)C | C14H23N3O2
